US05011927
Preparation of 2-amino-4-fluoro-6-n-heptyloxypyrimidine (Variant A)
A solution of 1.14 g (0.038 mol) of 80% sodium hydride (suspension in linseed oil) in 30 ml of n-heptanol was added to a stirred mixture of 5 g (0.038 mol) of 2-amino-4,6-difluoropyrimidine in 70 ml of n-heptanol at 20° to 25° C. within 5 minutes. After 2.5 hours working up was carried out as in Example 6. 6.3 g (73% of theory) of the title compound of melting point 30°-32° C. were obtained in this way.

reactant | sodium hydride | 0.038 mol, 1.14 g | [H-].[Na+]
reactant | 2-amino-4,6-difluoropyrimidine | 0.038 mol, 5 g | NC1=NC(=CC(=N1)F)F | C4H3F2N3
reactant | n-heptanol | 30 ml | C(CCCCCC)O | C7H16O
reactant | n-heptanol | 70 ml | C(CCCCCC)O | C7H16O
product | 2-amino-4-fluoro-6-n-heptyloxypyrimidine | NC1=NC(=CC(=N1)F)OCCCCCCC | C11H18FN3O
